US07585881B2
N-Cyclopropyl-4-methoxy-benzamidine
4-methoxy-benzimidic acid ethyl ester hydrochloride (1.25 g, 5.8 mmol), DCM (5 ml) and cyclopropylamine (0.92 ml, 13.3 mmol) were mixed. After stirring at r.t for 3 h, the reaction mixture was concentrated in-vacuo. The residue was treated with cold aq. sodium hydroxide (1M) and extracted with EA. The combined organic phase was washed with water and brine, dried (Na2SO4), filtered and concentrated in-vacuo, to isolate the title compound (0.90 g, 82%). 1H-NMR: 7.64 (d, 2H), 6.90 (d, 2H), 5.3 (bs, 2H), 3.85 (s, 3H), 2.59 (m, 1H), 0.84 (m, 2H), 0.62 (m, 2H).

reactant | 4-methoxy-benzimidic acid ethyl ester hydrochloride | 5.8 mmol, 1.25 g | Cl.C(C)OC(C1=CC=C(C=C1)OC)=N
reactant | cyclopropylamine | 13.3 mmol, 0.92 ml | C1(CC1)N | C3H7N
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | N-Cyclopropyl-4-methoxy-benzamidine | 0.90 g, 82% | C1(CC1)NC(C1=CC=C(C=C1)OC)=N | C11H14N2O
